US06197978B1
Preparation of 8-Fluoro-2H-1-benzopyran-5-carboxylic acid (Compound (VI))
Methyl 8-fluoro-2H-1-benzopyran-5-carboxylate (7.36 g, 35.4 mmol) was dissolved in absolute ethanol (220 mL), NaOH (2.0 g, 49.6 mmol) in H2O (25 mL), was added thereto, and the reaction mixture was refluxed for 1.5 hour. The reaction mixture was cooled and the solvent was removed in vacuo. The yellow solid was dissolved in H2O (150 mL), active charcoal was added and then filtered off. The resulting light-coloured liquid was washed with diethyl ether, the aqueous solution was made acidic with 2 M HCl and the product was extracted twice with ethyl acetate. The combined organic portions were treated with brine, dried with MgSO4, filtered, and the solvent was removed in vacuo to give 6.64 g (97% yield) of a yellowish solid (dried in a desiccator over P2O5) as the title compound (mp 224-226° C.). EIMS (70 eV) m/z (relative intensity) 194 (93, M+), 193 (100), 149 (56), 148 (68), 120 (13), 88 (25), 75 (28), 74 (21), 60 (12).

reactant | Methyl 8-fluoro-2H-1-benzopyran-5-carboxylate | 35.4 mmol, 7.36 g | FC=1C=CC(=C2C=CCOC21)C(=O)OC | C11H9FO3
reactant | NaOH | 49.6 mmol, 2.0 g | [OH-].[Na+]
solvent | ethanol | 220 mL | C(C)O | C2H6O
solvent | H2O | 25 mL | O | H2O
product | 8-Fluoro-2H-1-benzopyran-5-carboxylic acid | FC=1C=CC(=C2C=CCOC21)C(=O)O | C10H7FO3
